US05011831
Ethyl 6,8-difluoro-1-methyl-4-oxo-7-(1-piperazinyl)-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxyate
Ethyl 6,7,8-trifluoro-1-methyl-4-oxo-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate (0.33 g) and 0.14 g of potassium carbonate were suspended in 10 ml of N,N-dimethylformamide, 0.13 g of anhydrous piperazine was added and the mixture was stirred at 60° C. for 2 hours. N,N-Dimethylformamide was evaporated therefrom in vacuo, the residue was dissolved in chloroform, the solution was washed with water, dried over magnesium sulfate, the solvent was evaporated therefrom, the residue was subjected to a silica gel column chromatography (30 g of Wakogel C-300 being used) and eluted with chloroform-methanol (4:1) to give 0.29 g of the title product, m.p. 195°-198° C. (decompn).

reactant | Ethyl 6,7,8-trifluoro-1-methyl-4-oxo-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 0.33 g | FC=1C=C2C(C(=C3N(C2=C(C1F)F)C(S3)C)C(=O)OCC)=O | C14H10F3NO3S
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperazine | 0.13 g | N1CCNCC1 | C4H10N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 6,8-difluoro-1-methyl-4-oxo-7-(1-piperazinyl)-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxyate | 0.29 g | FC=1C=C2C(C(=C3N(C2=C(C1N1CCNCC1)F)C(S3)C)C(=O)OCC)=O | C18H19F2N3O3S
